US07291631B2
To a stirred suspension of 2-aminoimidazole sulfate (667 mg, 5.05 mmol) in CH2Cl2 (25 mL) was added 1,1′-carbonyldiimidazole followed by DIPEA (2.70 mL, 15.50 mmol). The resultant mixture was stirred at room temperature overnight then concentrated under reduced pressure and provided 1.53 g of imidazole-1-carboxylic acid (1H-imidazol-2-yl)-amide as a brown solid.

reactant | 2-aminoimidazole sulfate | 5.05 mmol, 667 mg | S(=O)(=O)(O)O.NC=1NC=CN1
reactant | 1,1′-carbonyldiimidazole | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | DIPEA | 15.50 mmol, 2.70 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | CH2Cl2 | 25 mL | C(Cl)Cl | CH2Cl2
product | imidazole-1-carboxylic acid (1H-imidazol-2-yl)-amide | 1.53 g | N1C(=NC=C1)NC(=O)N1C=NC=C1 | C7H7N5O
